US07851473B2
N-1,3-Benzodioxol-5-yl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
To a solution of 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and triethylamine (0.113 ml, 0.812 mmol) in tetrahydrofuran (2 ml) was added 3,4-(methylenedioxy)phenyl isocyanate (199 mg, 1.22 mmol) at room temperature, and the mixture was stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 239 mg (71.9%) of the desired product as a solid.

reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | triethylamine | 0.812 mmol, 0.113 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-(methylenedioxy)phenyl isocyanate | 1.22 mmol, 199 mg | C1OC=2C=C(C=CC2O1)N=C=O | C8H5NO3
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-1,3-Benzodioxol-5-yl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 239 mg, 71.9% | O1COC2=C1C=CC(=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)C2=CC=CC=C2 | C20H19N5O3S
